US08809372B2
To a stirred solution of (2-(4-fluorophenyl)thiazol-5-yl)(pyridin-4-yl)methanone (0.1 g, 0.352 mmol) in THF (10 mL) was added isopropyl magnesium bromide (0.1 g, 0.704 mmol) at 0° C. The reaction mixture was stirred for 1 hour at room temperature. After completion of the reaction, the reaction mixture was quenched with ammonium chloride (5 mL) at 0° C., extracted with ethyl acetate (2×20 mL), washed with water followed by brine (20 mL), dried over Na2SO4, and concentrated under reduced pressure. The crude was purifying by the preparative TLC (Mobile phase: 10% MeOH in DCM) to obtain pure 1-(2-(4-fluorophenyl)thiazol-5-yl)-2-methyl-1-(pyridin-4-yl)propan-1-ol (0.023 g, 20% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.52 (d, 2H), 7.92 (t, 3H), 7.56 (d, 2H), 7.27 (t, 2H), 6.22 (s, 1H), 2.79 (t, 1H), 0.98 (d, 3H), 0.71 (d, 3H); LC-MS m/z calculated for [M+H]+ 329.10, found 329.1.

reactant | (2-(4-fluorophenyl)thiazol-5-yl)(pyridin-4-yl)methanone | 0.352 mmol, 0.1 g | FC1=CC=C(C=C1)C=1SC(=CN1)C(=O)C1=CC=NC=C1 | C15H9FN2OS
reactant | isopropyl magnesium bromide | 0.704 mmol, 0.1 g | C(C)(C)[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2-(4-fluorophenyl)thiazol-5-yl)-2-methyl-1-(pyridin-4-yl)propan-1-ol | 0.023 g, 20% yield | FC1=CC=C(C=C1)C=1SC(=CN1)C(C(C)C)(O)C1=CC=NC=C1 | C18H17FN2OS
